US07189711B2
(±)-3-Acetyl-1-(4-amino-3-chlorophenyl)-4,5-dihydro-4-methyl-8-methoxy-3H-2,3-benzodiazepine
4.66 g (10 mmoles) of (±)-3-acetyl-7-bromo-4,5-dihydro-1-(3-chloro-4-nitrophenyl)-4-methyl-8-methoxy-3H-2,3-benzo-diazepine are dissolved in 190 cm3 of methyl cellosolve, then 2.1 g (15 mmoles) of potassium carbonate and 1.8 g of 10% palladium/charcoal catalyst and, under vigorous stirring, 1.95 cm3 (40 mmoles) of 98% hydrazine hydrate are added. The reaction mixture is stirred at 90° C. for 0.5 hours, the catalyst is filtered, the filtrate is evaporated, and the residue is rubbed with 50 cm3 of water to obtain solid matter. The crude product is purified by chromatography over a column containing silica gel and using a mixture of ethyl acetate and hexane, then the product is recrystallized from ethanol. Thus, 1.1 g (30%) of the title compound are obtained in the form of white solids melting at 152–155° C.

reactant | (±)-3-acetyl-7-bromo-4,5-dihydro-1-(3-chloro-4-nitrophenyl)-4-methyl-8-methoxy-3H-2,3-benzo-diazepine | 10 mmoles, 4.66 g | C(C)(=O)N1N=C(C2=C(CC1C)C=C(C(=C2)OC)Br)C2=CC(=C(C=C2)[N+](=O)[O-])Cl | C19H17BrClN3O4
reactant | potassium carbonate | 15 mmoles, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine hydrate | 40 mmoles, 1.95 cm3 | O.NN
solvent | methyl cellosolve | 190 cm3 | COCCO | C3H8O2
catalyst | palladium/charcoal | 1.8 g | [Pd] | Pd
product | (±)-3-Acetyl-1-(4-amino-3-chlorophenyl)-4,5-dihydro-4-methyl-8-methoxy-3H-2,3-benzodiazepine | 1.1 g, 30% | C(C)(=O)N1N=C(C2=C(CC1C)C=CC(=C2)OC)C2=CC(=C(C=C2)N)Cl | C19H20ClN3O2
